US04742068
1,4-Dihydro-4,4-dimethyl-N-phenyl-1-pyridinecarboxamide
A mixture of 4.57 g (0.036 mole) of 3,3-dimethylglutaraldehyde, 0.20 g (0.001 mole) of p-toluenesulfonic acid monohydrate and 8.64 g (0.072 mole) of anhydrous magnesium sulfate in 300 ml of dry THF was heated to reflux under nitrogen. 4.89 g (0.036 mole) of phenylurea in 125 ml of dry THF was added over a period of 1 hour. Refluxing was continued for an additional 40 minutes before the reaction mixture was filtered and the filtrate evaporated in vacuo to yield 8.23 g of a brown oil. The crude product was purified by silica gel column chromatography on 410 g of CC-7 silica gel eluting with a 7.5% ethyl acetate/hexane solution. The eluate was evaporated in vacuo to yield 4.74 g of the title compound, a white solid, mp 128°-130° C.

reactant | 3,3-dimethylglutaraldehyde | 0.036 mole, 4.57 g | CC(CC=O)(CC=O)C | C7H12O2
reactant | magnesium sulfate | 0.072 mole, 8.64 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | phenylurea | 0.036 mole, 4.89 g | C1(=CC=CC=C1)NC(=O)N | C7H8N2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
catalyst | p-toluenesulfonic acid monohydrate | 0.001 mole, 0.20 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1,4-Dihydro-4,4-dimethyl-N-phenyl-1-pyridinecarboxamide | 8.23 g | CC1(C=CN(C=C1)C(=O)NC1=CC=CC=C1)C | C14H16N2O
